US09126980B2
Step 2: Step 2: 2-(3-Dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-4-methoxy-benzoic acid
A mixture of 5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide (0.85 g, 3.6 mmol), 2-iodo-4-methoxybenzoic acid (1.0 g, 3.6 mmol), copper iodide (0.14 g, 0.72 mmol), cesium carbonate (1.2 g, 3.6 mmol), and trans-dimethylaminecyclohexane (0.23 mL, 1.44 mmol) in dioxane (5 mL) was microwaved at 120° C. for 15 minutes. Diluted with ethyl acetate, the crude material was eluted through a silica gel column with a 0 to 100% ethyl acetate/heptane and then 0 to 20% methanol/methylene chloride gradient to afford the title compound (0.43 g, 31% yield). MS (ESI) [m/e, (M+H)+]=388.5.

reactant | 5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide | 3.6 mmol, 0.85 g | C(CCC)N(C(=O)C1=NNC(=C1)C)CCCC | C13H23N3O
reactant | 2-iodo-4-methoxybenzoic acid | 3.6 mmol, 1.0 g | IC1=C(C(=O)O)C=CC(=C1)OC | C8H7IO3
reactant | cesium carbonate | 3.6 mmol, 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanol methylene chloride | CO.C(Cl)Cl
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.72 mmol, 0.14 g | [Cu](I)I
product | 2-(3-Dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-4-methoxy-benzoic acid | 0.43 g, 31% yield | C(CCC)N(C(=O)C1=NN(C(=C1)C)C1=C(C(=O)O)C=CC(=C1)OC)CCCC | C21H29N3O4
